US08735322B2
Ammonia (pre-dried using sodium and iron (III) chloride) (approx 60 mL) is allowed to distil into a flask containing 2-(3,5-dimethoxybenzyl)-[1,3]-dioxolane (1.0 g, 4.46 mmol) in ethanol (3 mL), and lithium wire is added portionwise to the reaction mixture until the reaction mixture retains a blue colour for ten minutes. Ethanol (1 mL) is then added, and the mixture stirred for 20-25 minutes at −33° C. The ammonia is evaporated, and the resultant mixture is taken up into saturated aqueous ammonium chloride solution (20 ml), and extracted with ethyl acetate (3×25 ml). The organic extracts are washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo to give 2-(3,5-dimethoxy-cyclohexa-2,5-dienylmethyl)-[1,3]-dioxolane.

reactant | Ammonia | approx 60 mL | N | H3N
reactant | 2-(3,5-dimethoxybenzyl)-[1,3]-dioxolane | 4.46 mmol, 1.0 g | COC=1C=C(CC2OCCO2)C=C(C1)OC | C12H16O4
reactant | lithium | [Li] | Li
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | Ethanol | 1 mL | C(C)O | C2H6O
product | 2-(3,5-dimethoxy-cyclohexa-2,5-dienylmethyl)-[1,3]-dioxolane | COC1=CC(C=C(C1)OC)CC1OCCO1 | C12H18O4
